US05376686
Preparation of N1 -(3,4-dichlorobenzyl)-N3 -cyanoguanidine
Putting 63.7 g (300 mM) of 3,4-dichlorobenzylamine hydrochloride and 30.9 g (1.1 eq.) of sodium dicyanamide in 950 ml (15 V) of acetonitrile, the mixture was heated and refluxed for 3.5 hours. Distilling away the solvent, 600 ml of water was added to the residue (white solid) to disperse and wash. Obtained crystals were filtered off, and dispersed and washed in 600 ml of dichloromethane. Since residue of amine was recognized, the crystals were dispersed and washed again in 600 ml of water and 500 ml of dichloromethane. Crystals were filtered off, and dried overnight at 60° C., and 57.7 g (78.9%) of the captioned compound was obtained.

reactant | 3,4-dichlorobenzylamine hydrochloride | 300 mM, 63.7 g | Cl.ClC=1C=C(CN)C=CC1Cl
reactant | sodium dicyanamide | 30.9 g, 1.1 eq. | [N-](C#N)C#N.[Na+]
solvent | acetonitrile | 950 ml | C(C)#N | C2H3N
product | N1 -(3,4-dichlorobenzyl)-N3 -cyanoguanidine | 57.7 g, 78.9% | ClC=1C=C(CNC(=N)NC#N)C=CC1Cl | C9H8Cl2N4
